US06339087B1
1-{1-(R)-[4-(3,4-Dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea (0.21 g) was dissolved in 2-chloroethanol (5 mL) and the solution heated in an oil bath at 90° C. After stirring under nitrogen for 1 day, the reaction mixture was cooled and then poured directly onto a pad of silica gel. Elution with 6% methanol in methylene chloride and then 11% methanol in methylene chloride, followed by solvent removal from the appropriate fractions gave 4-(3,4-dichlorobenzyl)-1-(2-hydroxyethyl)-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium chloride (41.6 mg).

reactant | 1-{1-(R)-[4-(3,4-Dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea | 0.21 g | ClC=1C=C(CC2CCN(CC2)C[C@@H](C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C=CC1Cl | C27H37Cl2N3O4
reactant | 2-chloroethanol | 5 mL | ClCCO | C2H5ClO
product | 4-(3,4-dichlorobenzyl)-1-(2-hydroxyethyl)-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium chloride | 41.6 mg | [Cl-].ClC=1C=C(CC2CC[N+](CC2)(CC(C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)CCO)C=CC1Cl | InChI=1S/C29H41Cl2N3O5.ClH/c1-19(2)25(33-29(36)32-22-16-26(37-3)28(39-5)27(17-22)38-4)18-34(12-13-35)10-8-20(9-11-34)14-21-6-7-23(30)24(31)15-21;/h6-7,15-17,19-20,25,35H,8-14,18H2,1-5H3,(H-,32,33,36);1H
